US05654326
Using the procedure described in Example 2, Part E, 956 mg (2.1 mmol) of [[3-(2-amino-1,2-dioxoethyl)-1-([1,1'-biphenyl]-3-ylmethyl)-2-methyl-1H-indol-4-yl]oxy]acetic acid methyl ester was hydrolyzed in 10 mL of 1N NaOH and 20 mL of MeOH to give 403 mg (41% yield) of [[3-(2-amino-1,2-dioxoethyl)-1-([1,1'-biphenyl]-3-ylmethyl)-2-methyl-1H-indol-4-yl]oxy]acetic acid, sodium salt, mp, >265° C.

reactant | [[3-(2-amino-1,2-dioxoethyl)-1-([1,1'-biphenyl]-3-ylmethyl)-2-methyl-1H-indol-4-yl]oxy]acetic acid methyl ester | 2.1 mmol, 956 mg | COC(COC1=C2C(=C(N(C2=CC=C1)CC=1C=C(C=CC1)C1=CC=CC=C1)C)C(C(=O)N)=O)=O | C27H24N2O5
reactant | MeOH | 20 mL | CO | CH4O
reactant | sodium | [Na] | Na
solvent | NaOH | 1N, 10 mL | [OH-].[Na+]
product | [[3-(2-amino-1,2-dioxoethyl)-1-([1,1'-biphenyl]-3-ylmethyl)-2-methyl-1H-indol-4-yl]oxy]acetic acid | 403 mg, 41% yield | NC(C(=O)C1=C(N(C2=CC=CC(=C12)OCC(=O)O)CC=1C=C(C=CC1)C1=CC=CC=C1)C)=O | C26H22N2O5
